US07452893B2
To an ethyl acetate (100 mL) solution of (−) 2-{[4-(Benzyloxy)-2-fluorocyclohexyl]oxy}-1-phenylethanone (1.44 g, 4.18 mmol) was added 10% palladium on carbon (0.200 g). The resulting mixture was hydrogenated using a balloon. After 20 h the contents of the reaction flask were filtered through celite® and the filtrate evaporated under reduced pressure. Flash column chromatography (hexane:ethyl acetate, 60:40) gave 3-Fluoro-4-(2-phenylethoxy)cyclohexanol as a colorless oil (0.918 g, 92% yield).

reactant | (−) 2-{[4-(Benzyloxy)-2-fluorocyclohexyl]oxy}-1-phenylethanone | 4.18 mmol, 1.44 g | C(C1=CC=CC=C1)OC1CC(C(CC1)OCC(=O)C1=CC=CC=C1)F | C21H23FO3
reactant | hexane | CCCCCC | C6H14
catalyst | palladium on carbon | 0.200 g | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 3-Fluoro-4-(2-phenylethoxy)cyclohexanol | 0.918 g, 92% yield | FC1CC(CCC1OCCC1=CC=CC=C1)O | C14H19FO2
